US04556713
A solution of 1.0 g of sodium 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate in 30 ml of warm water was stirred with 1 g magnesium sulfate in 20 ml of water and warmed on a steam bath for 15 minutes. Cooling and filtration provided magnesium 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate hydrate, m.p. >300° C. Analysis: Calculated for (C14H10BrFNO3)2Mg.H2O; %C, 47.1; %H, 3.0; %N, 3.9; Found: %C, 46.9; %H, 3.2; %N, 3.9.

reactant | sodium 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate | 1.0 g | BrC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)[O-])=O)F.[Na+]
reactant | magnesium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | 30 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | magnesium 8-bromo-6,7-dihydro-9-fluoro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate hydrate | O.BrC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)[O-])=O)F.[Mg+2].BrC2=C(C=C3C(C(=CN1C(CCC2=C31)C)C(=O)[O-])=O)F | InChI=1S/2C14H11BrFNO3.Mg.H2O/c2*1-6-2-3-7-11(15)10(16)4-8-12(7)17(6)5-9(13(8)18)14(19)20;;/h2*4-6H,2-3H2,1H3,(H,19,20);;1H2/q;;+2;/p-2
